* baseline strain magnitude
        .include bsim4_nmos.subckt

        Veps eps_s 0 dc 0.0
        Valp alpha 0 dc 0.0
        Vdd d 0 dc 1.0
Vgs g 0 dc 0.75
Vss s 0 dc 0.0
Vbb b 0 dc 0.0


        Xdev d g s b bsim4_nmos W=10u L=180n

        .dc Veps 0.0 0.005 0.0005
        .print dc v(eps_s) v(alpha) i(Vdd)
        .end
